US04677168
An equimolar mixture of dibutylcarbonate and 3-amino-1,2-propanediol was allowed to react resulting in formation of butyl 2,3-dihydroxypropylcarbamate.

reactant | dibutylcarbonate | C(CCC)OC(OCCCC)=O | C9H18O3
reactant | 3-amino-1,2-propanediol | NCC(CO)O | C3H9NO2
product | butyl 2,3-dihydroxypropylcarbamate | OC(CNC(OCCCC)=O)CO | C8H17NO4
